US07902219B2
To a suspension of 0.33 g of 6-aminonicotinic acid in 5 mL of THF and 3 mL of ethanol is added a solution of 0.654 g of 3-bromo-1-phenylpropane-1,2-dione in 2 mL of THF. The reaction mixture is stirred at 45° C. for 16 hours and for 24 hours at 20° C., and then evaporated to dryness. The residue is taken up in dichloromethane and the solid is filtered off and washed with dichloromethane to give 0.78 g of 2-benzoylimidazo[1,2-a]pyridine-6-carboxylic acid hydrobromide in the form of a yellow solid.

reactant | 6-aminonicotinic acid | 0.33 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 3-bromo-1-phenylpropane-1,2-dione | 0.654 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-benzoylimidazo[1,2-a]pyridine-6-carboxylic acid hydrobromide | 0.78 g | Br.C(C1=CC=CC=C1)(=O)C=1N=C2N(C=C(C=C2)C(=O)O)C1 | InChI=1S/C15H10N2O3.BrH/c18-14(10-4-2-1-3-5-10)12-9-17-8-11(15(19)20)6-7-13(17)16-12;/h1-9H,(H,19,20);1H
